Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.28766596704
[H:13].[H:1][O:2][C:3]1=[C:11]([H:12])[C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[O:4]1>>[H:1][O:2][C:3]1[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-2.07341367672
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.21893906247
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.9126846866600005
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:9][H:10],5.93199777564
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.38928048202
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]=[C:9]([H:10])[H:11],-1.85594687398
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.0324540464
[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],-2.53295014645
[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.84999522752
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:10]([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.53620835259
[H:1].[O:2]=[C:3]=[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-2.7577299128099995
[H:1][C:2]=[C:9]([H:10])[H:11].[H:3][C:7](=[C:4]=[C:5]([H:6])[C:12]([H:13])([H:14])[H:15])[H:8]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.69652894819
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[H:1][C:2]([H:3])=[C:4],7.543861627410001
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[O:6].[O:1](/[C:2]([H:3])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[H:7],1.0346492187799998
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6]1\[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:8][O:7][C:6]([H:9])([H:10])[C:11]([H:12])[H:13],0.706506106981
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.9074425278199993
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9],3.82549838706
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-4.62997832584
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.8348412911800014
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:9][H:10].[H:8]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.87017075229
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.30916997256
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],1.01143209428
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.4686751095
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6]([H:7])[C:12]1([H:13])[H:14]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-1.44033478012
[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.79287430847
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],3.89153243401
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.61926344114
